US03976653
To the Grignard reagent prepared from 2.4 g. of magnesium turnings and 15.7 g. of bromobenzene in diethyl ether there is added dropwise an ethereal solution of 33.7 g. of cis-3-acetyl-1-benzyl-2-(p-methoxybenzyl)piperidine. After this addition is completed, the reaction mixture is stirred and refluxed for 4 hours and poured into aqueous ammonium chloride solution. The ether layer is separated, dried, and filtered. The filtrate is evaporated to dryness under reduced pressure to yield cis-1-benzyl-2-(p-methoxybenzyl)-α-methyl-α-phenyl-3-piperidinemethanol.

reactant | magnesium | [Mg] | Mg
reactant | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
reactant | cis-3-acetyl-1-benzyl-2-(p-methoxybenzyl)piperidine | C(C)(=O)[C@@H]1[C@@H](N(CCC1)CC1=CC=CC=C1)CC1=CC=C(C=C1)OC | C22H27NO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | C(C)OCC | C4H10O
product | cis-1-benzyl-2-(p-methoxybenzyl)-α-methyl-α-phenyl-3-piperidinemethanol | C(C1=CC=CC=C1)N1[C@H]([C@H](CCC1)C(O)(C1=CC=CC=C1)C)CC1=CC=C(C=C1)OC | C28H33NO2
